US07465815B2
5-Bromo-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene
To a mixture of 3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene synthesized in Reference Example 212 (4.45 g, 15.8 mmol) and iron powder (59 mg, 1.05 mmol) in dichloromethane (20 mL) was added bromine (0.81 mL, 15.8 mmol) at 0° C., and the mixture was stirred at the same temperature for 1 hour. Water was poured into the reaction mixture, which was extracted with ethyl acetate. The extract was washed with a saturated sodium hydrogen carbonate solution and water, was dried over magnesium sulfate, was filtered and then was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10) to obtain 4.6 g (yield 80%) of the title compound. Melting point: 98-100° C. (hexane-ethyl acetate).

reactant | 3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene | C(C)(C)C1=CC=C(C=C1)C1CSC2=C1C(=CC(=C2)C)C | C19H22S
reactant | bromine | 15.8 mmol, 0.81 mL | BrBr | Br2
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | iron | 1.05 mmol, 59 mg | [Fe] | Fe
product | 5-Bromo-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzothiophene | 4.6 g, yield 80% | BrC=1C(=CC2=C(C(CS2)C2=CC=C(C=C2)C(C)C)C1C)C | C19H21BrS
